US07704995B2
3-(5-anmino-6{3-[(3S)-piperidin-3-yl]-1H-1,2,4-traiazol-5-yl}pyrazine-2-yl)-N[4-chloro-2-fluorophenyl)methyl]benzamide: 3-(5-Amino-6-cyano-pyrazin-2-yl)-N-(4-chloro-2-fluoro-benzyl)-benzamide (238.0 mg, 0.63 mmol) and 1,1-dimethylethyl (3S)-3-(hydrazinocarbonyl)piperidine-1-carboxylate (460 mg, 1.89 mmol) was combined together and it was heated to 180° C. for 1 or 2 hrs. The reaction mixture was poured into water (575 mL), and extracted with ethyl acetate (2×35 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by MPLC to give 3-[5-amino-6-(5-piperidin-3-yl-2H-[1,2,4]triazol-3-yl)-pyrazin-2-yl]-N-(4-chloro-2-fluoro-benzyl)-benzamide (206.0 mg, 65.0% yield): 1H NMR (400 MHz, d4-MeOH): δ 8.60 (d, 2H), 8.20 (d, 1H), 7.82 (d, 1H), 7.58 (t, 1H), 7.38 (t, 1H), 7.15 (m, 2H), 4.60(s, 2H), 3.62 (m, 1H), 3.40(m, 3H), 2.99 (m, 1H), 2.37 (m, 1H), 1.98 (m, 3H); MS (EI) for C25H24N8OFCl: 507.03 (MH+).

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 3-(5-Amino-6-cyano-pyrazin-2-yl)-N-(4-chloro-2-fluoro-benzyl)-benzamide | 0.63 mmol, 238.0 mg | NC=1N=CC(=NC1C#N)C=1C=C(C(=O)NCC2=C(C=C(C=C2)Cl)F)C=CC1 | C19H13ClFN5O
reactant | 1,1-dimethylethyl (3S)-3-(hydrazinocarbonyl)piperidine-1-carboxylate | 1.89 mmol, 460 mg | N(N)C(=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21N3O3
solvent | water | 575 mL | O | H2O
product | 3-[5-amino-6-(5-piperidin-3-yl-2H-[1,2,4]triazol-3-yl)-pyrazin-2-yl]-N-(4-chloro-2-fluoro-benzyl)-benzamide | 206.0 mg, 65.0% yield | NC=1N=CC(=NC1C=1NN=C(N1)C1CNCCC1)C=1C=C(C(=O)NCC2=C(C=C(C=C2)Cl)F)C=CC1 | C25H24ClFN8O
